US07235572B2
In analogy to the procedure described in example 8 c], 4-methyl-2-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester was reduced with lithium aluminum hydride to give [4-methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol as colorless liquid.

reactant | 4-methyl-2-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C1=CC(=CC=C1)C(F)(F)F)C | C14H12F3NO2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [4-methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | CC=1N=C(SC1CO)C1=CC(=CC=C1)C(F)(F)F | C12H10F3NOS
